2113-10-05 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-10-4**] 07:03 PM
   - ABG, CXR on arrival to ICU
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-4**] 11:18 PM
   Cefipime - [**2113-10-5**] 12:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-10-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-5**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 73 (69 - 80) bpm
   BP: 123/59(74) {116/31(58) - 128/63(78)} mmHg
   RR: 15 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 55.7 kg (admission): 55.7 kg
             Total In:
                                                                  3,295 mL
                                                                    221 mL
   PO:
             TF:
   IVF:
                                                                    245 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    320 mL
   Urine:
                                                                    160 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,135 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/34/54//0
   Ve: 4.8 L/min
   PaO2 / FiO2: 135
   Physical Examination
   HEENT: anicteric, MM dry, R eye deviated medially (chronic)
   CV:RRR no m/r/g appreciated
   PULM:scant wheeze and crackles at bases otherwise clear
   ABD: soft, slightly distended hypoactive bs, Gtube draining, dressing
   c/d/i
   EXT:cool to touch, mild edema b/l feet but strong dp pulses
   NEURO: responds to tactile stimulus, gag reflex intact, does not track
   Labs / Radiology
   33.8 %
        [image002.jpg]
                             [**2113-10-4**]  05:57 PM
                             [**2113-10-4**]  10:37 PM
                             [**2113-10-5**]  01:00 AM
   Hct
   33.8
   TropT
   0.11
   TCO2
   24
   24
   Other labs: CK / CKMB / Troponin-T:31/3/0.11, Lactic Acid:1.9 mmol/L,
   INR 1.7, PT 18.7, PTT 33.9
   Assessment and Plan
   This is a [**Age over 90 382**] year-old female with a  history of CAD s/p MI, HTN, DM,
   hypothyrodism, depression, CVA (non-verbal at baseline) and recent
   [**Hospital1 54**] discharge for acute CHF who presents with tachypnea and
   non-responsiveness.
   .
   Plan:
   # Hypoxemic Respiratory Failure:Patient presented with severe tachypnea
   with O2 sats in upper 80s on RA that were responsive to increased FiO2.
   Because tachypnea was not improving, patient was intubated in the ED.
   Etiology concerning for PNA as CXR finding of retrocardiac density.
   Would be hospital acquired as patient discharge day prior to admission.
   Of note, most recent admission consistent with volume overload with
   patient responding to diuresis. No evidence of volume overload on exam
   or CXR.
   - continue broad spectrum antibiotics for hospital-acquired PNA -
   vancomycin, cefepime
   - f/u sputum sample
   - ventilator to pressure support, wean as tolerated, vent respiratory
   bundle
   - versed and fentanyl to maintain minimal sedation
   .
   # Fever/Leukocytosis: Probable source lung vs. urine. Patient just
   completed course of cephalexin for ?UTI on last admit. CXR finding,
   respiratory distress, and recent hospital admission concerning for
   hospital-aquired PNA. WBC up from discharge.
   - Broad spectrum antiobiotics for HAP
   - Follow-up blood, urine, send sputum cultures
   - Trend WBC count fever curve
   - repeat CXR after hydration
   .
   # Coffee Ground Emesis: Unclear if coffee ground emesis [**3-4**] UGI bleed
   vs. trauma from OG tube placement. GI aware and to staff patient in am.
   Patient has remained hemodynamically stable overnight. HCT stable from
   recent discharge at 39. Likely [**3-4**] NG trauma.
   - flush G tube as needed, consider removal of NG tube pending GI recs
   - pantoprazole 40mg IV BID
   - trend HCT
   - GI recs in am- unlikely need to scope given no d/c from NG tube
   .
   # Troponin Elevation: Patient with troponin of 0.11 on admission. Admit
   EKG with wider QRS but unable to assess St/T waves due to IVCD and LVH.
   - cycle enzymes
   - continue telemetry
   .
   # CHF, chronic, diastolic and systolic: EF 20-25% on [**12/2112**] echo. No
   evidence of volume overload on exam, pt appears dry w/increased
   creatinine from last admit. Patient did require 4L IVF in ED in the
   setting of hypotension surrounding intubation.
   - will hold ACE-I and spironolactone overnight, consider resuming in am
   - monitor volume status closely, consider resuming lasix in am
   - Monitor I/Os
   .
   # Acute Renal Failure: Baseline creatinine appears to be 1.0. Pt at 1.2
   on last discharge, 1.6 on this admit. Likely prerenal as patient
   appears dry on exam, given infectious process. Bun/Cr >20:1.
   - f/u urine lytes, follow creatinine after IVF
   .
   # Coagulopathy: Patient has had elevated INR since early [**9-8**] at 1.5.
   Was 1.4 on last admission. Unclear if related to nutritional status.
   Fibrinogen nl on admit so unlikely to be DIC. No history of chronic
   liver disease and LFTs nl on last admit, now mildly elevated on this
   admission.
   - consider trial of vitamin K
   - follow coags, monitor fibrinogen
   .
   # Elevated AST/ALT/LDH: Increased from 10 days ago. Patient with no
   previous history of liver dysfunction. Differential includes toxic
   injury from drugs vs. poor profusion. Did recently complete a course of
   valtrex for v. zoster which can cause hepatitis.
   - f/u LFSs until resolution.
   .
   # Diabetes, type 2: Appears to be diet controlled. No HbA1C in our
   system. On no oral antihyperglycemics.
   - covered with regular insulin sliding scale.
   .
   # Herpes zoster, left T7-8 dermatome:  Completed course of Valtrex on
   most recent admission.
   -Lesions have scabbed over, she does not require precautions.
   .
   # ? Seizure D/O: On Keppra from NH. Will continue.
   .
   # Hypothyroidism: continue outpt regimen.
   .
   # Stage II decubitus pressure ulcers: sacrum and mid-back, local
   wound care continued.
   .
   # FEN: F/u nutrition recs for tube feeds
   .
   # Access: PIV  18 x2, 20 x1- patient is a difficult stick with poor
   access, will attempt PICC today
   .
   # PPx: PPI, bowel regimen, heparin SC, pneumoboots
   .
   # Code:  DNR, intubation OK
   .
   # Dispo:  ICU
   .
   # Comm: Family was not present on transfer to MICU. son , [**Name (NI) 5044**],
   [**Name (NI) 4874**] tel # [**Telephone/Fax (1) 5045**] work - [**Telephone/Fax (1) 5046**] confirmed DNR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-10-4**] 07:28 PM
   18 Gauge - [**2113-10-4**] 07:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-06 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2113-10-5**] 01:00 PM
   -[**6-10**] to [**6-5**] on vent (FIO2 .40) tolerating well.
   -Na 149, given D5 500cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-4**] 11:18 PM
   Cefipime - [**2113-10-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-10-5**] 08:50 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-5**] 08:50 PM
   Fentanyl - [**2113-10-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-6**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 79 (64 - 84) bpm
   BP: 123/68(82) {110/52(69) - 137/73(89)} mmHg
   RR: 23 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 55.7 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                    918 mL
                                                                    827 mL
   PO:
             TF:
                                                                     30 mL
                                                                     91 mL
   IVF:
                                                                    598 mL
                                                                    536 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    100 mL
   Urine:
                                                                    675 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                    727 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 363 (332 - 375) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/33/151/20/1
   Ve: 6.1 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Opens eyes to voice, withdraws from tactile stimulus
   HEENT: NCAT Mmdry pink conjunctiva, R eye abducted
   CV: RRR S1S2
   PULM: clear b/l scant rales likely [**3-4**] vent
   ABD: nontender, dressing c/d/I Gtube
   EXT: WWP 1+dp pulses, no rashes, no periph edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   9.4 g/dL
   749 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.2 mEq/L
   48 mg/dL
   124 mEq/L
   151 mEq/L
   30.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2113-10-4**]  05:57 PM
                             [**2113-10-4**]  10:37 PM
                             [**2113-10-5**]  01:00 AM
                             [**2113-10-5**]  04:08 AM
                             [**2113-10-5**]  11:04 AM
                             [**2113-10-6**]  03:53 AM
   WBC
   16.4
   13.7
   Hct
   33.8
   33.8
   30.3
   Plt
   218
   183
   Cr
   1.0
   0.9
   TropT
   0.11
   0.08
   TCO2
   24
   24
   24
   Glucose
   140
   749
   Other labs: PT / PTT / INR:16.7/51.5/1.5, CK / CKMB /
   Troponin-T:24/3/0.08, ALT / AST:42/67, Alk Phos / T Bili:66/1.0,
   Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8 %, Eos:0.2 %, Lactic
   Acid:1.5 mmol/L, LDH:369 IU/L, Ca++:6.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Sputum GS: GPC pairs/clusters, budding yeast
   UCx: pending
   Blood cx: pending
   Assessment and Plan
   #Respiratory failure: Likely secondary to HAP per CXR. Doing well on
   minimal pressure support although RISBI during rounds 120. Will
   reassess in the afternoon but no extubation at this point. Continue
   current antibiotics for PNA until sensitivities return.
   -continue antibiotics (vancomycin and cefepime)
   -reassess for extubation in the afternoon, likely will not be extubated
   until tomorrow
   #Fever, leukocytosis: PNA, UTI. On vanco, cefepime.
   -f/u cultures
   -trend WBC
   #UTI: as above. Foley in place, continue IV fluids.
   -continue cefepime
   #Coffee ground emesis: has not recurred since transfer to ICU.
   -trend hct
   -monitor tube output, flush as needed
   -1 free H2O flush today
   -continue PPI
   #Elevated troponin: likely demand ischemia, last troponin .08.
   -telemetry
   -on ASA, beta blocker therapy
   #CHF: systolic/diastolic HF
   -monitor fluid status closely with daily wts, strict I/O
   -IV fluids as needed for UOP but with caution to avoid pulm edema
   #DM: ISS, FS
   #Elevated LFTs: have been decreasing slowly, will continue to monitor
   -trend LFTs
   #FEN: tube feeds per nutrition recommendations, IV D5 500cc bolus for
   Na 149 then NS IV @75cc/hr for low UOP, replete electrolytes as needed
   Access: PIV, PICC
   Ppx: heparin sc, PPI
   Code: DNR, intubation ok
   Dispo: ICU until extubation, to floor if stable
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2113-10-5**] 09:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-10-4**] 07:28 PM
   18 Gauge - [**2113-10-4**] 07:28 PM
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Note: labs in this note (CBC, chem 10) were erroneous and repeated
   shortly thereafter. Please see OMR or note in chart for updated labs.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5095**] [**Name8 (MD) 5096**], MD
   on:[**2113-10-6**] 13:14 ------

2113-10-06 10:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, weaned down to pressure support. No new problems.
   24 Hour Events:
 PICC LINE - START [**2113-10-5**] 01:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2113-10-6**] 12:00 AM
   Vancomycin - [**2113-10-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2113-10-6**] 12:00 AM
   Pantoprazole (Protonix) - [**2113-10-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-10-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-6**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 78 (64 - 84) bpm
   BP: 101/46(60) {101/46(60) - 137/73(89)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 55.7 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                    918 mL
                                                                  1,385 mL
   PO:
             TF:
                                                                     30 mL
                                                                    199 mL
   IVF:
                                                                    598 mL
                                                                    786 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    160 mL
   Urine:
                                                                    675 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                  1,225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (332 - 380) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/33/151/24/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 377
   Physical Examination
   General Appearance: intubated and vented
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: poorly responsive
   Labs / Radiology
   10.4 g/dL
   216 K/uL
   209 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   54 mg/dL
   117 mEq/L
   149 mEq/L
   33.4 %
   16.2 K/uL
        [image002.jpg]
                             [**2113-10-4**]  05:57 PM
                             [**2113-10-4**]  10:37 PM
                             [**2113-10-5**]  01:00 AM
                             [**2113-10-5**]  04:08 AM
                             [**2113-10-5**]  11:04 AM
                             [**2113-10-6**]  03:53 AM
                             [**2113-10-6**]  06:00 AM
   WBC
   16.4
   13.7
   16.2
   Hct
   33.8
   33.8
   30.3
   33.4
   Plt
   [**Telephone/Fax (3) 5093**]
   Cr
   1.0
   0.9
   1.0
   TropT
   0.11
   0.08
   TCO2
   24
   24
   24
   Glucose
   140
   749
   209
   Other labs: PT / PTT / INR:16.7/51.5/1.5, CK / CKMB /
   Troponin-T:24/3/0.08, ALT / AST:42/67, Alk Phos / T Bili:66/1.0,
   Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8 %, Eos:0.2 %, Lactic
   Acid:1.5 mmol/L, LDH:369 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Microbiology: Gram Postive cocci in pairs/clusters
   Assessment and Plan
   1)       Acute Respiratory Failure:
   -          Treat underlying pneumonia (continue cefepime and
   vancomycin_
   -          SBT/Check ABG
   -
   2)       Pneumonia: continue cefepime/vanc
   3)       Coffee ground emesis
   4)       Demand ischemia
   5)       DM: insulin sliding scale
   6)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2113-10-5**] 09:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-10-4**] 07:28 PM
   18 Gauge - [**2113-10-4**] 07:28 PM
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 35 minutes (patient is critically ill)

2113-10-07 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2113-10-6**] 01:26 PM showing PACs, ectopy
   -250cc NS x2 for low UOP, increased to 30cc/hr
   -rebolused 1000cc NS for continued low UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-6**] 08:00 AM
   Cefipime - [**2113-10-6**] 11:51 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2113-10-6**] 06:47 PM
   Pantoprazole (Protonix) - [**2113-10-6**] 07:52 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-6**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-7**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 66 (61 - 83) bpm
   BP: 118/61(75) {89/42(54) - 123/69(81)} mmHg
   RR: 27 (22 - 32) insp/min
   SpO2: 100%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 55.7 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  5,018 mL
                                                                  1,286 mL
   PO:
             TF:
                                                                    736 mL
                                                                    299 mL
   IVF:
                                                                  3,252 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                    377 mL
                                                                    105 mL
   Urine:
                                                                    377 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,641 mL
                                                                  1,181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (272 - 380) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.42/34/147/21/-1
   Ve: 7.2 L/min
   PaO2 / FiO2: 367
   Physical Examination
   HEENT: NCAT MM dry anicteric
   CV: RRR S1S2
   PULM: crackles at b/l bases otherwise clear
   ABD: soft nondistended hypoactive bs
   EXT: WWP 1+dp pulses
   NEURO: responsive to tactile stimulation and suctioning not to voice
   Labs / Radiology
   223 K/uL
   10.7 g/dL
   198 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.5 mEq/L
   48 mg/dL
   115 mEq/L
   143 mEq/L
   33.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2113-10-4**]  05:57 PM
                             [**2113-10-4**]  10:37 PM
                             [**2113-10-5**]  01:00 AM
                             [**2113-10-5**]  04:08 AM
                             [**2113-10-5**]  11:04 AM
                             [**2113-10-6**]  03:53 AM
                             [**2113-10-6**]  06:00 AM
                             [**2113-10-6**]  11:08 AM
                             [**2113-10-7**]  04:25 AM
   WBC
   16.4
   13.7
   16.2
   15.1
   Hct
   33.8
   33.8
   30.3
   33.4
   33.0
   Plt
   [**Telephone/Fax (3) 5152**]23
   Cr
   1.0
   0.9
   1.0
   0.9
   TropT
   0.11
   0.08
   TCO2
   24
   24
   24
   23
   Glucose
   140
   749
   209
   198
   Other labs: PT / PTT / INR:14.9/42.6/1.3, CK / CKMB /
   Troponin-T:24/3/0.08, ALT / AST:101/129, Alk Phos / T Bili:71/0.7,
   Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8 %, Eos:0.2 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:367 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.6 mg/dL
   Sputum cx: >25PMN  <10 epis, 3+GPC in pairs and clusters
   Blood cx: NGTD
   Urine Cx: yeast
   Assessment and Plan
   #Respiratory failure: Likely secondary to HAP per CXR. Doing well on
   minimal pressure support although continues to have significant
   secretions, poor RSBI. On last CXR appears to have increased size in
   opacity in LLL and sputum with +GPC culture. Would benefit from
   bronchoscopy.  Will reassess in the afternoon but no extubation at this
   point. Continue vancomycin for PNA for appropriate coverage.
   -continue vancomycin, d/c cefepime
   -bronchoscopy this afternoon
   -suction as needed, MDI standing
   -f/u CXR
   #Tachycardia/ectopy: [**Month (only) 60**] be secondary to pulmonary infection, pain,
   hypovolemia. In setting of poor UOP would not titrate beta blocker.
   Since the ectopy is intermittent, with no EKG changes suggesting
   ischemia, will continue to monitor for now.
   -EKG
   -telemetry
   -IV fluids
   #Fever, leukocytosis: Treating PNA and UTI. At this point has been
   covered with cefepime for 4 days, will d/c as UTI has been treated and
   was likely exacerbated by lack of UOP. Has remained a febrile >48hrs.
   Will continue to follow fever curve, cultures and WBC.
   -f/u cultures
   -trend WBC
   -c.diff cultures to r/o GI infection
   #Decreased UOP: Initially patient was thought to be volume overloaded
   and did not received fluids after ED had given 2L. Over last 48hrs UOP
   was 10-20cc/hr and responsive to boluses. Will continue to bolus as
   needed to maintain UOP of 30cc/hr and monitor for pulmonary edema
   closely given low EF.
   -bolus 250cc NS and titrate for 30cc/hr
   -free water bolus per Gtube
   #Coffee ground emesis: has not recurred since transfer to ICU.
   -trend hct
   -monitor tube output, flush as needed
   -H2O flush
   -continue PPI
   #Elevated troponin: likely demand ischemia, last troponin .08.
   -telemetry
   -on ASA, beta blocker therapy
   #CHF: systolic/diastolic HF. Last 48hrs with low blood pressures and
   minimal UOP. Carvediol d/c
   -monitor fluid status closely with daily wts, strict I/O
   -IV fluids as needed for UOP but with caution to avoid pulm edema
   #DM: ISS, FS
   #Elevated LFTs: have been decreasing slowly, today have increased
   drastically. This could be secondary to liver congestion, ? ischemia,
   underlying malignancy (see last CT ab/pelvis). Will need to be
   re-evaluated today with CT ab/pelvis and continued trending of levels.
   Patient is not on any hepatotoxic levels of current medications.
   -trend LFTs
   -CT ab/pelvis
   #FEN: tube feeds per nutrition recommendations, free water bolus per
   Gtube, replete electrolytes as needed
   Access: PICC
   Ppx: heparin sc, PPI
   Code: DNR, intubation ok
   Dispo: bronch today and continue attempt to wean
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-7**] 01:41 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-10-4**] 07:28 PM
   18 Gauge - [**2113-10-4**] 07:28 PM
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-08 06:52:00 Physician Resident Progress Note
Chief Complaint: Non-responsiveness
   24 Hour Events:
   -increased free water via Gtube 250cc
   -continue to bolus 250cc NS as needed for 30cc/hr UOP
   -c.diff negative
   -bronchoscopy w/bal sent for cytology. needs to be f/u today.
   -CT ab/pel to figure out why she had lft bump and why she's not peeing
   despite fluid boluses and free water per Gtube
   -Sputum cx: STAPH AUREUS COAG; YEAST.
   -continue vancomycin
   -cefepime was stopped yesterday
   -low UOP could be d/t ATN? send off urine lytes, osm. consider spinning
   urine down and look for crystals, eos, casts
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-6**] 08:00 AM
   Cefipime - [**2113-10-6**] 11:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-10-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-10-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-8**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 76 (67 - 82) bpm
   BP: 123/67(80) {107/53(63) - 136/84(91)} mmHg
   RR: 26 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  3,681 mL
                                                                  1,157 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    309 mL
   IVF:
                                                                  1,250 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    200 mL
   Urine:
                                                                    420 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,261 mL
                                                                    957 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (0 - 400) mL
   Vt (Spontaneous): 325 (264 - 835) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 11.6 L/min
   Physical Examination
   General: NAD, patient non-responsive to verbal stimuli
   HEENT: PEERLA, no jaundice, well hydrated mucous membranes
   Neck: supple, no bruits, no lymph nodes
   Heart: RRR, no m/r/g
   Lungs: Expiratory wheezes
   Extremities: no edema, no rashes, warm, palpable pulses
   Skin: No rashes
   Neurologic: Patient non-responsive to verbal stimuli, without any
   sedation, normal muscle tone, normal ROTs
   Labs / Radiology
   236 K/uL
   10.7 g/dL
   200 mg/dL
   0.9 mg/dL
   19 mEq/L
   5.0 mEq/L
   44 mg/dL
   116 mEq/L
   143 mEq/L
   38.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2113-10-4**]  05:57 PM
                             [**2113-10-4**]  10:37 PM
                             [**2113-10-5**]  01:00 AM
                             [**2113-10-5**]  04:08 AM
                             [**2113-10-5**]  11:04 AM
                             [**2113-10-6**]  03:53 AM
                             [**2113-10-6**]  06:00 AM
                             [**2113-10-6**]  11:08 AM
                             [**2113-10-7**]  04:25 AM
                             [**2113-10-8**]  04:11 AM
   WBC
   16.4
   13.7
   16.2
   15.1
   11.1
   Hct
   33.8
   33.8
   30.3
   33.4
   33.0
   38.0
   Plt
   [**Telephone/Fax (3) 5152**]23
   236
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   TropT
   0.11
   0.08
   TCO2
   24
   24
   24
   23
   Glucose
   140
   749
   209
   198
   200
   Other labs: PT / PTT / INR:15.3/36.0/1.4, CK / CKMB /
   Troponin-T:24/3/0.08, ALT / AST:101/129, Alk Phos / T Bili:71/0.7,
   Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8 %, Eos:0.2 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:367 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   #Respiratory failure: Likely secondary to HAP per CXR. Doing well on
   minimal pressure support although continues to have significant
   secretions, poor RSBI. On last CXR appears to have increased size in
   opacity in LLL and sputum with +GPC culture. In the last film the ET
   tube is 1.9cm from the carina. Continue vancomycin for PNA for
   appropriate coverage.
   -continue vancomycin
   -suction as needed, MDI standing
   -Pull ET tube 2 cm.
   -f/u CXR
   #Diaphoresis: on physical exam, patient was excessively diaphoretic.
   Concern for myocardial ischemia;
   -Cycle enzymes
   -EKG
   -Monitor telemetry
   #Tachycardia/ectopy: [**Month (only) 60**] be secondary to pulmonary infection, pain,
   hypovolemia. In setting of poor UOP would not titrate beta blocker.
   Since the ectopy is intermittent, with no EKG changes suggesting
   ischemia, will continue to monitor for now.
   -EKG
   -telemetry
   -IV fluids
   # Leukocytosis: Treating PNA and UTI. At this point has been covered
   with cefepime for 4 days, will d/c as UTI has been treated and was
   likely exacerbated by lack of UOP. Has remained a febrile >48hrs. Will
   continue to follow fever curve, cultures and WBC.
   -f/u cultures
   -trend WBC
   -c.diff cultures to r/o GI infection
   #Decreased UOP: Patient with very low UOP during last 24 hours. So far
   it has been fluid dependent, but will go slowly for concern for
   pulmonary edema..
   -bolus 250cc NS and titrate for 30cc/hr
   -free water bolus per Gtube
   #Coffee ground emesis: has not recurred since transfer to ICU.
   -trend hct
   -monitor tube output, flush as needed
   -H2O flush
   -continue PPI
   #CHF: systolic/diastolic HF. Last 48hrs with low blood pressures and
   minimal UOP. Carvediol d/c
   -monitor fluid status closely with daily wts, strict I/O
   -IV fluids as needed for UOP but with caution to avoid pulm edema
   #DM: ISS, FS
   #Elevated LFTs: have been decreasing slowly, today have increased
   drastically. This could be secondary to liver congestion, ? ischemia,
   underlying malignancy (see last CT ab/pelvis). Will need to be
   re-evaluated today with CT ab/pelvis and continued trending of levels.
   Patient is not on any hepatotoxic levels of current medications.
   -trend LFTs
   -CT ab/pelvis
   #FEN: tube feeds per nutrition recommendations, free water bolus per
   Gtube, replete electrolytes as needed
   Access: PICC
   Ppx: heparin sc, PPI
   Code: DNR, intubation ok
   Dispo: dsicuss goals of care with family; need to wean from vent first.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-7**] 11:44 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-09 06:35:00 Physician Resident Progress Note
Chief Complaint: Non-responsiveness.
   24 Hour Events:
   CT scan showed: new ascities, no hydronephrosis, no lymphadenopathy.
   New ascities and worsening anasarca; no hydronephrosis or pathological
   adenopathy.
   FeNa 0.1%
   Lasix hold, but then given at 4 AM since pt. balance was extremely
   positive (~3L) the 24 hours prior
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2113-10-6**] 11:51 PM
   Vancomycin - [**2113-10-8**] 09:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-10-8**] 09:13 AM
   Heparin Sodium (Prophylaxis) - [**2113-10-8**] 09:13 AM
   Furosemide (Lasix) - [**2113-10-8**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-9**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96.1
   HR: 83 (72 - 100) bpm
   BP: 134/74(90) {114/58(74) - 142/108(111)} mmHg
   RR: 26 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  4,524 mL
                                                                    859 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    294 mL
   IVF:
                                                                  1,451 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    250 mL
   Urine:
                                                                    750 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,774 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 406 (406 - 406) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   11.9 g/dL
   205 mg/dL
   1.0 mg/dL
   18 mEq/L
   5.4 mEq/L
   45 mg/dL
   113 mEq/L
   138 mEq/L
   37.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2113-10-5**]  01:00 AM
                             [**2113-10-5**]  04:08 AM
                             [**2113-10-5**]  11:04 AM
                             [**2113-10-6**]  03:53 AM
                             [**2113-10-6**]  06:00 AM
                             [**2113-10-6**]  11:08 AM
                             [**2113-10-7**]  04:25 AM
                             [**2113-10-8**]  04:11 AM
                             [**2113-10-8**]  10:41 AM
                             [**2113-10-9**]  03:44 AM
   WBC
   16.4
   13.7
   16.2
   15.1
   11.1
   13.9
   Hct
   33.8
   33.8
   30.3
   33.4
   33.0
   38.0
   37.4
   Plt
   [**Telephone/Fax (3) 5152**]23
   236
   274
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   1.0
   TropT
   0.11
   0.08
   0.04
   TCO2
   24
   23
   Glucose
   140
   749
   209
   198
   200
   205
   Other labs: PT / PTT / INR:15.2/34.9/1.3, CK / CKMB /
   Troponin-T:82/3/0.04, ALT / AST:118/112, Alk Phos / T Bili:74/0.8,
   Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8 %, Eos:0.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:369 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   #Respiratory failure: Likely secondary to HAP per CXR. Doing well on
   minimal pressure support although continues to have significant
   secretions, poor RSBI. On last CXR appears to have increased size in
   opacity in LLL and sputum with +GPC culture. In the last film the ET
   tube is 1.9cm from the carina. Continue vancomycin for PNA for
   appropriate coverage.
   -continue vancomycin
   -suction as needed, MDI standing
   -Pull ET tube 2 cm.
   -f/u CXR
   #Diaphoresis: on physical exam, patient was excessively diaphoretic.
   Concern for myocardial ischemia;
   -Cycle enzymes
   -EKG
   -Monitor telemetry
   #Tachycardia/ectopy: [**Month (only) 60**] be secondary to pulmonary infection, pain,
   hypovolemia. In setting of poor UOP would not titrate beta blocker.
   Since the ectopy is intermittent, with no EKG changes suggesting
   ischemia, will continue to monitor for now.
   -EKG
   -telemetry
   -IV fluids
   # Leukocytosis: Treating PNA and UTI. At this point has been covered
   with cefepime for 4 days, will d/c as UTI has been treated and was
   likely exacerbated by lack of UOP. Has remained a febrile >48hrs. Will
   continue to follow fever curve, cultures and WBC.
   -f/u cultures
   -trend WBC
   -c.diff cultures to r/o GI infection
   #Decreased UOP: Patient with very low UOP during last 24 hours. So far
   it has been fluid dependent, but will go slowly for concern for
   pulmonary edema..
   -bolus 250cc NS and titrate for 30cc/hr
   -free water bolus per Gtube
   #Coffee ground emesis: has not recurred since transfer to ICU.
   -trend hct
   -monitor tube output, flush as needed
   -H2O flush
   -continue PPI
   #CHF: systolic/diastolic HF. Last 48hrs with low blood pressures and
   minimal UOP. Carvediol d/c
   -monitor fluid status closely with daily wts, strict I/O
   -IV fluids as needed for UOP but with caution to avoid pulm edema
   #DM: ISS, FS
   #Elevated LFTs: have been decreasing slowly, today have increased
   drastically. This could be secondary to liver congestion, ? ischemia,
   underlying malignancy (see last CT ab/pelvis). Will need to be
   re-evaluated today with CT ab/pelvis and continued trending of levels.
   Patient is not on any hepatotoxic levels of current medications.
   -trend LFTs
   -CT ab/pelvis
   #FEN: tube feeds per nutrition recommendations, free water bolus per
   Gtube, replete electrolytes as needed
   Access: PICC
   Ppx: heparin sc, PPI
   Code: DNR, intubation ok
   Dispo: dsicuss goals of care with family; need to wean from vent first.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2113-10-9**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-09 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 382**] year old female history CVA (non-verbal at baseline) with
   respiratory failure secondary to pneumonia.
   Last night and over the weekend, remains intubated and difficult to
   wean from the ventilator.  She has a baseline non-verbal status and is
   unable to provide further history.
   24 Hour Events:
                   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2113-10-6**] 11:51 PM
   Vancomycin - [**2113-10-8**] 09:13 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-8**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-9**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 80 (72 - 100) bpm
   BP: 145/77(94) {119/58(78) - 145/108(111)} mmHg
   RR: 21 (20 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  4,524 mL
                                                                  1,404 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    453 mL
   IVF:
                                                                  1,451 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    295 mL
   Urine:
                                                                    750 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,774 mL
                                                                  1,109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   274 K/uL
   205 mg/dL
   1.0 mg/dL
   18 mEq/L
   5.4 mEq/L
   45 mg/dL
   113 mEq/L
   138 mEq/L
   37.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2113-10-5**]  01:00 AM
                             [**2113-10-5**]  04:08 AM
                             [**2113-10-5**]  11:04 AM
                             [**2113-10-6**]  03:53 AM
                             [**2113-10-6**]  06:00 AM
                             [**2113-10-6**]  11:08 AM
                             [**2113-10-7**]  04:25 AM
                             [**2113-10-8**]  04:11 AM
                             [**2113-10-8**]  10:41 AM
                             [**2113-10-9**]  03:44 AM
   WBC
   16.4
   13.7
   16.2
   15.1
   11.1
   13.9
   Hct
   33.8
   33.8
   30.3
   33.4
   33.0
   38.0
   37.4
   Plt
   [**Telephone/Fax (3) 5152**]23
   236
   274
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   1.0
   TropT
   0.11
   0.08
   0.04
   TCO2
   24
   23
   Glucose
   140
   749
   209
   198
   200
   205
   Other labs: PT / PTT / INR:15.2/34.9/1.3, CK / CKMB /
   Troponin-T:82/3/0.04, ALT / AST:100/76, Alk Phos / T Bili:84/0.7,
   Amylase / Lipase:8/, Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8
   %, Eos:0.2 %, Lactic Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:369 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   1) Acute Respiratory Failure: Likely secondary to pneumonia
   - On PS 10/5
   Plan: Given that she has an size 7.0 ETT and underlying dementia, a
   RSBI on PS of [**6-5**] not be reflective of her abilty to extubate.  Thus,
   currently on a PS of 10 and therefore we will consider extubating from
   this pressure recognizing that there is a increased risk of failure but
   given
   2) Pneumonia
   - Staph from sputum - on Vancomycin
   Plan: Continue vancomycin
   3) Oliguria: Difficult to discern volume status...
   4)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2113-10-9**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2113-10-10 06:43:00 Physician Resident Progress Note
Chief Complaint: Non-responsiveness
   24 Hour Events:
   High Potassium yesterday (); so got Kayexelate
   Patient with very high fluid output through the rectal tube
   No organisms in the final studies from bronchoscopy
   Patient extubated yesterday. ABG after extubation: 7.42/28/141
   Cultures: pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-8**] 09:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-10-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-9**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-10**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 34.9
C (94.9
   HR: 95 (74 - 95) bpm
   BP: 141/74(91) {121/58(74) - 148/95(107)} mmHg
   RR: 45 (21 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  2,200 mL
                                                                    566 mL
   PO:
             TF:
                                                                    450 mL
   IVF:
                                                                    350 mL
                                                                     66 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,369 mL
                                                                    675 mL
   Urine:
                                                                    469 mL
                                                                    175 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                    831 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 3,448 (262 - 3,448) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: 7.42/28/121/18/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : Expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Shifting
   dullness
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   245 K/uL
   11.6 g/dL
   88 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.9 mEq/L
   44 mg/dL
   115 mEq/L
   141 mEq/L
   36.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2113-10-6**]  06:00 AM
                             [**2113-10-6**]  11:08 AM
                             [**2113-10-7**]  04:25 AM
                             [**2113-10-8**]  04:11 AM
                             [**2113-10-8**]  10:41 AM
                             [**2113-10-9**]  03:44 AM
                             [**2113-10-9**]  01:29 PM
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
   WBC
   16.2
   15.1
   11.1
   13.9
   13.6
   Hct
   33.4
   33.0
   38.0
   37.4
   36.4
   Plt
   [**Telephone/Fax (3) 5247**]74
   245
   Cr
   1.0
   0.9
   0.9
   1.0
   1.0
   1.0
   TropT
   0.04
   TCO2
   23
   19
   19
   Glucose
   [**Telephone/Fax (3) 5248**]05
   135
   88
   Other labs: PT / PTT / INR:15.5/34.9/1.4, CK / CKMB /
   Troponin-T:82/3/0.04, ALT / AST:66/43, Alk Phos / T Bili:68/1.3,
   Amylase / Lipase:[**9-7**], Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8
   %, Eos:0.2 %, Lactic Acid:1.8 mmol/L, Albumin:3.0 g/dL, LDH:369 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   #Respiratory failure: Likely HAP growing S aureus on sputum without any
   other bacteria (no evidence so far) and improving only on vancomycin.
   Now patient only on pressure supponr [**11-5**].
   -continue vancomycin Day [**5-9**]
   -suction as needed, MDI standing
   -ABGs in the afternoon and may extubate depending on RSBI and PCO2
   -f/u CXR
   #Decreased UOP: Patient with very low UOP during last 24 hours. So far
   it has been fluid dependent, but will go slowly for concern for
   pulmonary edema..
   -bolus 250cc NS as needed
   -Albumin trial today
   #Diaphoresis: on physical exam, patient was excessively diaphoretic.
   Negative for myocardial ischemia yesterday. Patient afebrile and with
   normal VS. Will follow
   -EKG
   -Monitor telemetry
   # Leukocytosis: Treating PNA and UTI. At this point has been covered
   with cefepime for 4 days, will d/c as UTI has been treated and was
   likely exacerbated by lack of UOP. Has remained a febrile >48hrs. Will
   continue to follow fever curve, cultures and WBC.
   -f/u cultures
   -trend WBC
   -c.diff cultures to r/o GI infection
   #CHF: systolic/diastolic HF. Last 48hrs with low blood pressures and
   minimal UOP. Carvediol d/c
   -monitor fluid status closely with daily wts, strict I/O
   -IV fluids as needed for UOP but with caution to avoid pulm edema
   #DM: ISS, FS
   #Elevated LFTs: Patient with CT yesterday that did not show any cause
   for elevated LFTs. Trending down.  Patient is not on any hepatotoxic
   levels of current medications.
   -trend LFTs
   #FEN: tube feeds per nutrition recommendations, free water bolus per
   Gtube, replete electrolytes as needed
   Access: PICC
   Ppx: heparin sc, PPI
   Code: DNR, intubation ok
   Dispo: dsicuss goals of care with family; need to wean from vent first.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-10 18:31:00 Physician Attending Progress Note
Chief Complaint: Unresponsive
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, no new events.  urine output remains poor.
   24 Hour Events:
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-10**] 08:00 AM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-10-10**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2113-10-10**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-10**] 06:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 106 (74 - 106) bpm
   BP: 113/67(79) {111/57(72) - 148/95(107)} mmHg
   RR: 12 (12 - 45) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 65.7 kg (admission): 55.7 kg
   Height: 61 Inch
   CVP: 11 (11 - 11)mmHg
   Mixed Venous O2% Sat: 39 - 39
   Total In:
                                                                  2,200 mL
                                                                  2,014 mL
   PO:
   TF:
                                                                    450 mL
                                                                     93 mL
   IVF:
                                                                    350 mL
                                                                    920 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,369 mL
                                                                    790 mL
   Urine:
                                                                    469 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    831 mL
                                                                  1,224 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.41/27/61/18/-5
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Thin, poorly responsive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, No(t) Rash:
   Neurologic: No(t) Attentive, Responds to: Unresponsive, Movement: No
   spontaneous movement,
   Labs / Radiology
   11.6 g/dL
   245 K/uL
   88 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.9 mEq/L
   44 mg/dL
   115 mEq/L
   141 mEq/L
   36.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2113-10-6**]  11:08 AM
                             [**2113-10-7**]  04:25 AM
                             [**2113-10-8**]  04:11 AM
                             [**2113-10-8**]  10:41 AM
                             [**2113-10-9**]  03:44 AM
                             [**2113-10-9**]  01:29 PM
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
   WBC
   15.1
   11.1
   13.9
   13.6
   Hct
   33.0
   38.0
   37.4
   36.4
   Plt
   223
   236
   274
   245
   Cr
   0.9
   0.9
   1.0
   1.0
   1.0
   TropT
   0.04
   TCO2
   23
   19
   19
   18
   Glucose
   198
   200
   205
   135
   88
   Other labs: PT / PTT / INR:15.5/34.9/1.4, CK / CKMB /
   Troponin-T:82/3/0.04, ALT / AST:66/43, Alk Phos / T Bili:68/1.3,
   Amylase / Lipase:[**9-7**], Differential-Neuts:89.7 %, Lymph:5.1 %, Mono:4.8
   %, Eos:0.2 %, Lactic Acid:1.8 mmol/L, Albumin:3.0 g/dL, LDH:369 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A:
   1- Acute Respiratory Failure: was extubated yesterday and had been
   doing ok post-extubation from respiratory standpoint but now having
   intermittent [**Last Name (un) 1464**]-[**Doctor Last Name **]
   2- Pneumonia: Continue antibiotics
   3- CHF (EF 20%): Today, cool extremities with decreased urine output
   and scvo2 of 39% and [**Last Name (un) **]-[**Doctor Last Name **] breathing pattern.  Thus, this may
   be decompensated heart failure.  Will try trial of dobutamine and
   follow closely.
   Addendum: Attempted trial of dobutamine but urine output did not
   improve significantly.  Also, patient remains hypothermic with cool
   clammy extremities.  Respiratory rate increasing and urine output
   falling to almost zero.  Overall, I believe patient has recurrent
   episode of sepsis.  As respiratory status worsening, called her son who
   is clearly wishes to have the patient intubated again.  He continues to
   state that this has happened to her multiple times and she always gets
   better.  Thus, patient was intubated and placed on mechanical
   ventilation.  Will cover with broad-spectrum antibiotics.  Long term
   status will need to be discussed further with the son.
   ICU [**Name2 (NI) **]
   Nutrition:
   Nutren Renal (Full) - [**2113-10-10**] 01:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU care
   Total time spent: 30 minutes

2113-10-11 06:47:00 Physician Resident Progress Note
Chief Complaint: Non-responsiveness
   24 Hour Events:
 BLOOD CULTURED - At [**2113-10-10**] 04:53 PM
   x1 from double lumen left picc
   -Pt decompensated on shovel mask- poor sats on ABGs, cold/clammy on
   exam. decision was made to reintubate. Family was called and risks and
   benefits were discussed.
   -Patient continued to have poor urine output, IVF and dobutamine were
   tried with little improvement.
   -Blood cultures done to r/o sepsis
   -Overnight had some BRB suctioned - likely [**3-4**] intubation and
   readjustment. Pt on PPI, will guaiac stools, CXR in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-10**] 08:00 AM
   Meropenem - [**2113-10-11**] 03:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-10-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-11**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 81 (73 - 106) bpm
   BP: 135/72(88) {111/54(72) - 139/85(99)} mmHg
   RR: 22 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 65.7 kg (admission): 55.7 kg
   Height: 61 Inch
    CVP: 11 (11 - 11)mmHg
   Mixed Venous O2% Sat: 39 - 39
   Total In:
                                                                  2,399 mL
                                                                  1,167 mL
   PO:
   TF:
                                                                     65 mL
   IVF:
                                                                  1,084 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                    838 mL
                                                                     49 mL
   Urine:
                                                                    338 mL
                                                                     49 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,561 mL
                                                                  1,118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 363 (363 - 363) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/27/61/18/-5
   Ve: 9.3 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, On Bear Hug
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   10.9 g/dL
   78 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.6 mEq/L
   45 mg/dL
   114 mEq/L
   141 mEq/L
   33.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2113-10-8**]  04:11 AM
                             [**2113-10-8**]  10:41 AM
                             [**2113-10-9**]  03:44 AM
                             [**2113-10-9**]  01:29 PM
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
   WBC
   11.1
   13.9
   13.6
   11.2
   Hct
   38.0
   37.4
   36.4
   33.8
   Plt
   [**Telephone/Fax (3) 5281**]26
   Cr
   0.9
   1.0
   1.0
   1.0
   1.1
   1.1
   TropT
   0.04
   TCO2
   19
   19
   18
   Glucose
   200
   205
   135
   88
   90
   78
   Other labs: PT / PTT / INR:16.5/64.8/1.4, CK / CKMB /
   Troponin-T:82/3/0.04, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   #Respiratory failure/CHF exacerbation: Patient now extubated and on
   vancomycin [**6-8**]. Patient with very low central SVO2 and PO2. Since
   patient with cold extremities, low urinary output, known EF of 15% and
   very low central venous PO2, then most likely etiology is a low cardiac
   output.
   -continue vancomycin Day [**5-9**]
   -suction as needed, MDI standing
   -ABGs in the afternoon
   -f/u CXR
   -Start dobutamine low dose
   #Decreased UOP: Patient with very low UOP during last 24 hours
   (<500cc). Most likely cause is low cardiac output. Will maximize CHF
   treatment
   -bolus 250cc NS as needed
   -Control BP (<140/90)
   -Dobutamine
   # Leukocytosis: Treating PNA and UTI. At this point has been covered
   with cefepime for 4 days, will d/c as UTI has been treated and was
   likely exacerbated by lack of UOP. Has remained a febrile >48hrs. Will
   continue to follow fever curve, cultures and WBC.
   -f/u cultures
   -trend WBC
   -c.diff cultures to r/o GI infection
   #DM: ISS, FS
   #Elevated LFTs: Patient with CT yesterday that did not show any cause
   for elevated LFTs. Trending down.  Patient is not on any hepatotoxic
   levels of current medications.
   -trend LFTs
   #FEN: tube feeds per nutrition recommendations, free water bolus per
   Gtube, replete electrolytes as needed
   Access: PICC
   Ppx: heparin sc, PPI
   Code: DNR, intubation ok
   Dispo: dsicuss goals of care with family; need to wean from vent first.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-11 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Last evening, respiratory status worsened requiring intubation.
   Overnight, comfortable on the ventilator although urine output is still
   low.
   24 Hour Events:
 BLOOD CULTURED - At [**2113-10-10**] 04:53 PM
   x1 from double lumen left picc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-10**] 08:00 AM
   Meropenem - [**2113-10-11**] 03:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-10-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-10**] 08:00 PM
   Other medications:
   Med list reviewed - SEE [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2113-10-11**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.2
C (95.4
   HR: 77 (73 - 106) bpm
   BP: 122/72(85) {111/54(72) - 139/83(94)} mmHg
   RR: 26 (12 - 34) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 65.7 kg (admission): 55.7 kg
   Height: 61 Inch
   CVP: 11 (11 - 11)mmHg
   Mixed Venous O2% Sat: 39 - 39
   Total In:
                                                                  2,399 mL
                                                                  1,243 mL
   PO:
   TF:
                                                                     65 mL
   IVF:
                                                                  1,084 mL
                                                                    703 mL
   Blood products:
   Total out:
                                                                    838 mL
                                                                     49 mL
   Urine:
                                                                    338 mL
                                                                     49 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,561 mL
                                                                  1,194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 363 (363 - 363) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.41/27/61/18/-5
   Ve: 8.2 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Gen: Intubated, unresponsive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  warm, dry
   Neurologic: unresponsive
   Labs / Radiology
   10.9 g/dL
   226 K/uL
   78 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.6 mEq/L
   45 mg/dL
   114 mEq/L
   141 mEq/L
   33.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2113-10-8**]  04:11 AM
                             [**2113-10-8**]  10:41 AM
                             [**2113-10-9**]  03:44 AM
                             [**2113-10-9**]  01:29 PM
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
   WBC
   11.1
   13.9
   13.6
   11.2
   Hct
   38.0
   37.4
   36.4
   33.8
   Plt
   [**Telephone/Fax (3) 5281**]26
   Cr
   0.9
   1.0
   1.0
   1.0
   1.1
   1.1
   TropT
   0.04
   TCO2
   19
   19
   18
   Glucose
   200
   205
   135
   88
   90
   78
   Other labs: PT / PTT / INR:16.5/64.8/1.4, CK / CKMB /
   Troponin-T:82/3/0.04, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure:
   Plan: Given multiple intubations and baseline non-verbal status, will
   not attempt extubation today.  Will discuss with the son the long-term
   care goals
   2) Pneumonia:
   Plan: continue antibiotics (broadened to include gram negative
   coverage)
   3) CHF:
   Plan: Check ECHO today
   Disposition: Call the son and have him come to the hospital for
   discussion of the goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU care
   Total time spent: 35 minutes (patient is critically ill)

2113-10-12 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2113-10-11**] 04:00 PM
   -Family meeting, ? trach, goals of care
   -Echo: EF=20-30% apical hypokinesis/septal hypokinesis, RV dilatation,
   severe PA systolic HTN, dilated pulm artery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-10**] 08:00 AM
   Meropenem - [**2113-10-11**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-10-11**] 02:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-12**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (96.9
   HR: 94 (75 - 103) bpm
   BP: 129/79(91) {111/57(72) - 137/96(103)} mmHg
   RR: 28 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 65.7 kg (admission): 55.7 kg
   Height: 61 Inch
    CVP: 20 (20 - 20)mmHg
   Total In:
                                                                  1,966 mL
                                                                    197 mL
   PO:
   TF:
                                                                    135 mL
                                                                    131 mL
   IVF:
                                                                  1,041 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    114 mL
                                                                      0 mL
   Urine:
                                                                    114 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,852 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 359 (315 - 390) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 11.7 L/min
   Physical Examination
   HEENT:NCAT MMM
   CV: rrr s1s2
   PULM: scattered crackles at bases, rhonchi throughout [**3-4**] vent
   ABD: slightly distended, nontender +bs
   EXT:WWW 1+bs, no rashes, no edema noted
   Labs / Radiology
   289 K/uL
   11.8 g/dL
   95 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.9 mEq/L
   49 mg/dL
   115 mEq/L
   142 mEq/L
   38.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2113-10-8**]  10:41 AM
                             [**2113-10-9**]  03:44 AM
                             [**2113-10-9**]  01:29 PM
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
                             [**2113-10-11**]  06:52 PM
   WBC
   13.9
   13.6
   11.2
   12.2
   Hct
   37.4
   36.4
   33.8
   38.2
   Plt
   274
   245
   226
   289
   Cr
   1.0
   1.0
   1.0
   1.1
   1.1
   1.2
   TropT
   0.04
   0.04
   0.04
   TCO2
   19
   19
   18
   Glucose
   [**Telephone/Fax (2) 5298**]
   78
   95
   Other labs: PT / PTT / INR:16.1/64.8/1.4, CK / CKMB /
   Troponin-T:25/4/0.04, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Urine-yeast
   Blood cx-pend
   Assessment and Plan
   #Respiratory failure/CHF exacerbation:  Patient
s echo suggests
   worsening heart failure, desite relative improvement of EF. She
   continues to be vent dependent and is not able to be weaned as of yet.
   Family meeting scheduled for today to discuss potential for trach vs
   extubation. At this time, she is on PS 5/5 40% FIO2. At this time she
   is hemodynamically stable and does not require pressors. Opacities on
   CXR appear stable from yesterday and she has not been febrile for
   approx 24hrs.
   -family meeting today to discuss trach
   -continue antibiotics
   -suction as needed, MDI standing
   -f/u CXR in AM
   -pressors if pressure drops
   #Decreased UOP: Continues to have very low urine output despite fluid
   boluses. Likely secondary to poor cardiac output. Will continue to
   bolus as needed. No clear third spacing as patient does not appear
   edematous and there is no presacral edema in periphery.
   -bolus 250cc NS as needed
   -Control BP (<140/90)
   # Leukocytosis: Continue to follow fever curve and WBC. Patient with
   GPC on BAL and yeast on urine.
   -f/u cultures
   -trend WBC
   -c.diff negative
   #DM: patient has been normoglycemic without need for insulin over
   several days.
   -d/c SSI
   #Elevated LFTs: continue to trend down.
   -no active issues
   #FEN: continue tube feeds per nutrition recommendations, free water
   bolus per Gtube, replete electrolytes as needed
   -kayexelate for rising K
   Access: PICC
   Ppx: heparin sc, PPI, bowel regimen
   Code: DNR, intubation ok
   Dispo: pending family discussion on vent dependance
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-12**] 05:15 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-12 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, no new changes and remains on the ventilator
   ECHO yesterday worsening function
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2113-10-11**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-12**] 08:18 AM
   Meropenem - [**2113-10-12**] 11:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-10-11**] 02:16 PM
   Pantoprazole (Protonix) - [**2113-10-11**] 08:00 PM
   Other medications:
   Med List reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-12**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (80 - 103) bpm
   BP: 124/75(87) {111/57(72) - 137/96(103)} mmHg
   RR: 23 (23 - 33) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 65.7 kg (admission): 55.7 kg
   Height: 61 Inch
   CVP: 20 (20 - 20)mmHg
   Total In:
                                                                  2,326 mL
                                                                  1,897 mL
   PO:
   TF:
                                                                    135 mL
                                                                    330 mL
   IVF:
                                                                  1,151 mL
                                                                    517 mL
   Blood products:
   Total out:
                                                                    228 mL
                                                                     50 mL
   Urine:
                                                                    228 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,098 mL
                                                                  1,847 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (315 - 430) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   289 K/uL
   140 mg/dL
   1.3 mg/dL
   17 mEq/L
   5.0 mEq/L
   50 mg/dL
   112 mEq/L
   140 mEq/L
   38.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2113-10-9**]  03:44 AM
                             [**2113-10-9**]  01:29 PM
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
                             [**2113-10-11**]  06:52 PM
                             [**2113-10-12**]  05:38 AM
   WBC
   13.9
   13.6
   11.2
   12.2
   Hct
   37.4
   36.4
   33.8
   38.2
   Plt
   274
   245
   226
   289
   Cr
   1.0
   1.0
   1.0
   1.1
   1.1
   1.2
   1.3
   TropT
   0.04
   0.04
   0.05
   TCO2
   19
   19
   18
   Glucose
   [**Telephone/Fax (2) 5298**]
   78
   95
   140
   Other labs: PT / PTT / INR:16.1/64.8/1.4, CK / CKMB /
   Troponin-T:22/3/0.05, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   1) Acute Respiratory Failure:
   - Failed RSBI
 unable to extubate
   - Family meeting today to discuss extubation vs. tracheostomy
   2) Pneumonia: continue broad-spectrum antibiotics
   3) CHF: heart function worse
   4) Acute renal failure: decreased urine output likely secondary to
   decreased cardiac function.  Has received multiple fluid boluses but no
   significant increase in urine output.  Will check urine electrolytes
   and follow BUN/Cr, urine output
   5) FEN: Tube feeds at goal
   6) CVA with baseline non-verbal status
   Overall plan is to discuss goals of care with son later this
   afternoon.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-12**] 05:15 AM 45.[**Telephone/Fax (5) 5304**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35

2113-10-13 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -given 20IV lasix yesterday, UOP increased significantly.
   -suction via ET tube still with some blood-tinged sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-12**] 08:18 AM
   Meropenem - [**2113-10-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-12**] 03:38 PM
   Pantoprazole (Protonix) - [**2113-10-12**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-13**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 86 (76 - 100) bpm
   BP: 113/59(72) {58/47(49) - 133/79(91)} mmHg
   RR: 17 (17 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.4 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  3,227 mL
                                                                    332 mL
   PO:
             TF:
                                                                    887 mL
                                                                    167 mL
   IVF:
                                                                    750 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    285 mL
   Urine:
                                                                    650 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,577 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (353 - 430) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   11.0 g/dL
   182 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   50 mg/dL
   109 mEq/L
   136 mEq/L
   34.8 %
   13.3 K/uL
        [image002.jpg]
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
                             [**2113-10-11**]  06:52 PM
                             [**2113-10-12**]  05:38 AM
                             [**2113-10-12**]  04:40 PM
                             [**2113-10-13**]  02:18 AM
   WBC
   13.6
   11.2
   12.2
   13.3
   Hct
   36.4
   33.8
   38.2
   34.8
   Plt
   245
   226
   289
   231
   Cr
   1.0
   1.0
   1.1
   1.1
   1.2
   1.3
   1.2
   1.0
   TropT
   0.04
   0.04
   0.05
   TCO2
   19
   18
   Glucose
   135
   88
   90
   78
   95
   140
   241
   182
   Other labs: PT / PTT / INR:16.4/44.6/1.5, CK / CKMB /
   Troponin-T:22/3/0.05, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   #Respiratory failure/CHF exacerbation:  Patient
s echo suggests
   worsening heart failure, desite relative improvement of EF. She
   continues to be vent dependent and is not able to be weaned as of yet.
   Family meeting scheduled for today to discuss potential for trach vs
   extubation. At this time, she is on PS 10/5 50% FIO2. At this time she
   is hemodynamically stable and does not require pressors. Opacities on
   CXR appear stable from yesterday and she has not been febrile for
   approx 24hrs.
   -family meeting today to discuss trach
   -continue antibiotics
   -suction as needed, MDI standing
   -f/u CXR in AM
   -pressors if pressure drops
   #Decreased UOP: Continues to have very low urine output despite fluid
   boluses. Likely secondary to poor cardiac output. Will continue to
   bolus as needed. No clear third spacing as patient does not appear
   edematous and there is no presacral edema in periphery.
   -bolus 250cc NS as needed
   -Control BP (<140/90)
   # Leukocytosis: Continue to follow fever curve and WBC. Patient with
   GPC on BAL and yeast on urine.
   -f/u cultures
   -trend WBC
   -c.diff negative
   #DM: patient has been normoglycemic without need for insulin over
   several days.
   -d/c SSI
   #Elevated LFTs: continue to trend down.
   -no active issues
   #FEN: continue tube feeds per nutrition recommendations, free water
   bolus per Gtube, replete electrolytes as needed
   -kayexelate for rising K
   Access: PICC
   Ppx: heparin sc, PPI, bowel regimen
   Code: DNR, intubation ok
   Dispo: pending family discussion on vent dependance
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-13 11:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, had improved urine output with lasix
   - on CPAP 5/5
   24 Hour Events:
                   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-12**] 08:18 AM
   Meropenem - [**2113-10-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-12**] 03:38 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-13**] 08:00 AM
   Pantoprazole (Protonix) - [**2113-10-13**] 08:06 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-13**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 85 (76 - 100) bpm
   BP: 108/55(68) {58/47(49) - 129/75(88)} mmHg
   RR: 18 (17 - 34) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 65.4 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  3,246 mL
                                                                  1,295 mL
   PO:
             TF:
                                                                    907 mL
                                                                    526 mL
   IVF:
                                                                    750 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    385 mL
   Urine:
                                                                    650 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,596 mL
                                                                    910 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 419) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///20/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Thin, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   231 K/uL
   182 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   50 mg/dL
   109 mEq/L
   136 mEq/L
   34.8 %
   13.3 K/uL
        [image002.jpg]
                             [**2113-10-9**]  04:32 PM
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
                             [**2113-10-11**]  06:52 PM
                             [**2113-10-12**]  05:38 AM
                             [**2113-10-12**]  04:40 PM
                             [**2113-10-13**]  02:18 AM
   WBC
   13.6
   11.2
   12.2
   13.3
   Hct
   36.4
   33.8
   38.2
   34.8
   Plt
   245
   226
   289
   231
   Cr
   1.0
   1.0
   1.1
   1.1
   1.2
   1.3
   1.2
   1.0
   TropT
   0.04
   0.04
   0.05
   TCO2
   19
   18
   Glucose
   135
   88
   90
   78
   95
   140
   241
   182
   Other labs: PT / PTT / INR:16.4/44.6/1.5, CK / CKMB /
   Troponin-T:22/3/0.05, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure:
   Plan:
   - Will attempt to extubate
   - Continue antibiotics for pneumonia
   - Lasix for diuresis
   2) Pneumonia
   - continue antibiotics (meropenum/vancomycin)
   3) CVA (non-verbal at baseline)
   Disposition: will continue to try to contact son for family meeting.
   Did not show up last night.
   Addendum: Became more tachyapneic and RSBI worsened prohibiting
   extubation.  Will give more Lasix overnight and attempt extubation in
   the AM.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-13**] 07:46 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU care
   Total time spent: 35 (patient is critically ill)

2113-10-14 07:06:00 Physician Resident Progress Note
Chief Complaint: Non-responsiveness
   24 Hour Events:
   Patient received lasix to improve UOP. So far has responded with an
   average of 30cc/hr
   Considering extubation today; patient with apneic periods during RSBI
   testing yesterday. NPO for potential extubation later today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-12**] 08:18 AM
   Meropenem - [**2113-10-14**] 12:16 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-13**] 11:15 AM
   Pantoprazole (Protonix) - [**2113-10-13**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-13**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 81 (69 - 87) bpm
   BP: 128/56(74) {93/47(58) - 139/79(95)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 66.5 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                  2,377 mL
                                                                    171 mL
   PO:
             TF:
                                                                    867 mL
   IVF:
                                                                    460 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                    245 mL
   Urine:
                                                                  1,955 mL
                                                                    245 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    322 mL
                                                                    -75 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (282 - 458) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: ///21/
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, not-responsive to verbal
   or noxious stimuli
   Eyes / Conjunctiva: PERRL, R endotripia.
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent; edema +/+++
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   235 K/uL
   11.4 g/dL
   86 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.4 mEq/L
   41 mg/dL
   108 mEq/L
   136 mEq/L
   35.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2113-10-9**]  06:52 PM
                             [**2113-10-10**]  03:47 AM
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
                             [**2113-10-11**]  06:52 PM
                             [**2113-10-12**]  05:38 AM
                             [**2113-10-12**]  04:40 PM
                             [**2113-10-13**]  02:18 AM
                             [**2113-10-14**]  06:26 AM
   WBC
   13.6
   11.2
   12.2
   13.3
   11.3
   Hct
   36.4
   33.8
   38.2
   34.8
   35.4
   Plt
   245
   226
   289
   231
   235
   Cr
   1.0
   1.1
   1.1
   1.2
   1.3
   1.2
   1.0
   0.8
   TropT
   0.04
   0.04
   0.05
   TCO2
   19
   18
   Glucose
   88
   90
   78
   95
   140
   241
   182
   86
   Other labs: PT / PTT / INR:14.5/40.4/1.3, CK / CKMB /
   Troponin-T:22/3/0.05, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   #Respiratory failure: Most likely HAP and CHF exacerbation. Patient on
   antibiotics and active diursesis. Mental status has never been an issue
   for extubation, but her baseline is not-responsive. However, right now
   patient with copious secretions that could impair us from extubating
   her today. Family meeting today to assess goals of care. Currently on
   [**6-5**] and FiO2 of 0.4 with RR 24 and tidal of ~300cc.
   -Continue Vanc/Meropenem to complete 10-day course.
   -Manage CHF and negative balance as goal today
   -f/u CXR in am
   -suction PRN
   -MDI standing
   #CHF: Low EF (~15%) on carvedilol and lisinopril at home, which have
   been held.
   -Continue ASA
   -Start carvedilol 6.5mg
   -pressors if pressure drops
   #Decreased UOP: Responded to lasix 20IV x1, HD stable.
   -lasix 20mg IV x1
   -Control BP (<140/90)
   # VAP: Continue to follow fever curve and WBC. Patient with GPC on BAL
   , 10 day course of vanco, meropenem.
   -f/u cultures
   -trend WBC
   -vancomycin, meropenem (now [**4-10**])
   #DM: patient has been normoglycemic without need for insulin over
   several days.
   -restarted SSI for FS 200s
   #FEN: continue tube feeds per nutrition recommendations, free water
   bolus per Gtube (decrease today to 250 q8hrs), replete electrolytes as
   needed
   -kayexelate for rising K
   Access: PICC
   Ppx: heparin sc, PPI, bowel regimen
   Code: DNR, intubation ok
   Dispo: pending family discussion on vent dependance
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I reviewed pertinent history and lab data and examined patient.  I was
   physically present with the MICU team during the key portions of the
   service provided.  I agree with the note above, including the
   assessment and plan. I would add and emphasize the following:
   I had the chance to talk to her son, [**Name (NI) 4874**], at some length today.  The
   patient has been able to communicate somewhat, both by speech and
   hearing, despite being in a wheelchair, hard of hearing and blind at
   her N.H.  Her son, her proxy, believes that the patient enjoys life
   still enough to want to continue fighting, even to the point of a
   tracheostomy if necessary.  Two yrs ago the pt was intubated for 2
   weeks but was ultimately extubated.  She remains a DNR, and son would
   not want dialsysis if renal failure were to supervene.  He describes
   his mother as not someone to give up.
   On exam: vital signs stable. On vent: PSV 5/5 40% VT= 300
   Patient non responsive.  Lungs clear though ETT secretions still a
   problem. [**Name (NI) 59**] JVD. Cor RRR. Abd- G tube, old zoster lesions.  She
s under
   a bear hugger for prior hypotension
   Lab: CBC and lytes as above.  Creat down to .8   Vanc = 21  CXR
   suggests LLL infiltrate
   Problems:
   1.       [**Name2 (NI) **] CVA dementia, chronic
   2.       LLL pneumonia
   3.       CAD and CHF with EF =20%
   4.       Renal Insufficiency
   5.       Dispo: DNR but not DNI
   Plan:
   1.       Make I/O 500 cc neg daily
   2.       Continue Vanc, Meropenem
   3.       Restart Coreg for CHF
   4.       Resume free H20
   5.       Once secretions less of a problem and she
s a bit more
   diuresed, then I
d try another extubation attempt and if she fails,
   proceed to trache.
   Patient Critically ill.  Time spent=35 min plus 25min family mtg =
   60min total
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], [**MD Number(1) 5352**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2113-10-14**] 15:32 ------

2113-10-16 11:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Congestive heart Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasix maintained for diruesis with good effect
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-10-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-15**] 07:15 PM
   Pantoprazole (Protonix) - [**2113-10-16**] 08:53 AM
   Heparin Sodium (Prophylaxis) - [**2113-10-16**] 09:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-16**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 90 (75 - 94) bpm
   BP: 119/66(79) {108/55(72) - 135/74(88)} mmHg
   RR: 30 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 66.5 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                    570 mL
                                                                    319 mL
   PO:
             TF:
                                                                     11 mL
   IVF:
                                                                    460 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,391 mL
                                                                    298 mL
   Urine:
                                                                  1,341 mL
                                                                    298 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -821 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 499 (313 - 499) mL
   PS : 5 cmH2O
   RR (Set): 5
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: ).  Patient has cuff leak
   noted on exam.  She does have diminished lung sounds but minimal edema
   suggested by minimal crackles right.
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed, Not with directed response to commands
   Labs / Radiology
   11.8 g/dL
   254 K/uL
   84 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   34 mg/dL
   108 mEq/L
   140 mEq/L
   36.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2113-10-10**]  05:17 PM
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
                             [**2113-10-11**]  06:52 PM
                             [**2113-10-12**]  05:38 AM
                             [**2113-10-12**]  04:40 PM
                             [**2113-10-13**]  02:18 AM
                             [**2113-10-14**]  06:26 AM
                             [**2113-10-15**]  04:45 AM
                             [**2113-10-16**]  06:09 AM
   WBC
   11.2
   12.2
   13.3
   11.3
   9.8
   8.7
   Hct
   33.8
   38.2
   34.8
   35.4
   34.8
   36.6
   Plt
   [**Telephone/Fax (3) 5379**]35
   223
   254
   Cr
   1.1
   1.1
   1.2
   1.3
   1.2
   1.0
   0.8
   0.8
   0.8
   TropT
   0.04
   0.04
   0.05
   0.02
   TCO2
   18
   Glucose
   90
   78
   95
   140
   241
   182
   86
   125
   84
   Other labs: PT / PTT / INR:14.9/37.8/1.3, CK / CKMB /
   Troponin-T:14/3/0.02, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR-PICC not in central vein, left sided consolidation
   unchanged
   Assessment and Plan
   [**Age over 90 382**] yo female admit with a history of CHF and now with acute hypoxemic
   respiratory failure now showing some good response and capacity for
   tolerance of diuresis.  Her initial presentation was one of decreased
   responsivness and diaphoresis.  Suspiscion has been for possible
   infectious insult leading to respiratory decompensation in the setting
   of known history of imparied cardiac function.
   Respiratory Failure--Patient now with prolonged ventilatory support for
   12 days and has PSV wean completed.  She has failed extubation x1 in
   past
this was in setting of volume overload and evlolution of VAP.
   Both of these insults seem to have dimished or improved.  This morning
   patient with minimal response to verbal commands but reassuring has had
   cuff leak documented on exam this morning.  CXR shows some persistence
   of left lower lobe consolidation.  Favorable predictors are Ve<10,
   RR<25, no new insult.
   -Extubate this am
   -Continue ABX Rx (vanco/mer) until [**10-22**] for 10 day course for VAP
   -Maintian negative fluid balance
   -Move to CPAP support rapidly post extuabation of decline seen to allow
   management of edema.
   -If reintubation needed will need to consider tracheostomy for long
   term support.
   Congestive Heart Failure-Acute and Chronic Systolic and contributing to
   respiratory failure.
   -Coreg
   -Lasix
   -Spironolactone
   -Will need good rate pressure product control in the setting of
   extubation.
   Diarrhea-
   -Check C-Diff culture
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2113-10-17 12:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2113-10-16**] 02:37 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-16**] 12:06 PM
   Meropenem - [**2113-10-17**] 12:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-17**] 05:00 AM
   Lansoprazole (Prevacid) - [**2113-10-17**] 09:34 AM
   Heparin Sodium (Prophylaxis) - [**2113-10-17**] 09:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2113-10-17**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 93 (79 - 101) bpm
   BP: 109/59(70) {96/48(62) - 127/71(85)} mmHg
   RR: 23 (10 - 34) insp/min
   SpO2: 94%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 66.5 kg (admission): 55.7 kg
   Height: 61 Inch
             Total In:
                                                                    940 mL
                                                                    376 mL
   PO:
             TF:
             26 mL
   IVF:
                                                                    750 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                    285 mL
   Urine:
                                                                  1,113 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -173 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   289 K/uL
   96 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   33 mg/dL
   108 mEq/L
   142 mEq/L
   39.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2113-10-10**]  09:31 PM
                             [**2113-10-11**]  04:44 AM
                             [**2113-10-11**]  06:52 PM
                             [**2113-10-12**]  05:38 AM
                             [**2113-10-12**]  04:40 PM
                             [**2113-10-13**]  02:18 AM
                             [**2113-10-14**]  06:26 AM
                             [**2113-10-15**]  04:45 AM
                             [**2113-10-16**]  06:09 AM
                             [**2113-10-17**]  04:30 AM
   WBC
   11.2
   12.2
   13.3
   11.3
   9.8
   8.7
   9.3
   Hct
   33.8
   38.2
   34.8
   35.4
   34.8
   36.6
   39.9
   Plt
   [**Telephone/Fax (3) 5379**]35
   223
   254
   289
   Cr
   1.1
   1.1
   1.2
   1.3
   1.2
   1.0
   0.8
   0.8
   0.8
   0.9
   TropT
   0.04
   0.04
   0.05
   0.02
   Glucose
   90
   78
   95
   140
   241
   182
   86
   125
   84
   96
   Other labs: PT / PTT / INR:14.9/48.3/1.3, CK / CKMB /
   Troponin-T:14/3/0.02, ALT / AST:45/26, Alk Phos / T Bili:58/1.1,
   Amylase / Lipase:[**9-7**], Differential-Neuts:82.4 %, Lymph:11.1 %, Mono:4.8
   %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:272 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-Remarkable stability
   Assessment and Plan
   [**Age over 90 382**] yo female with h/o CAD now admit with respiratory failure but now
   with successful extubation.
   Respiratory Failure-
   -Patient extubated without event
   -Keep aspiration precautions in place
   -Will need to address the goals of care in light of patient and son
   wishes should clinical decline be seen.
   -Vanco/Meropenem
   Congestive Heart Failure-
   -continue with current medication regimen
   -Carvedilol
   -keep even fluid balance in place
Lasix/Spironolactone
and patient
   should keep this as goal weight going forward
   -continue to maximize medical treatment
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-17**] 10:45 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2113-10-5**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
will need to clarify with son
   goals, current understanding is patient would be appropriate for
   intubation
   Disposition :Will move to call out to the floor if continued stability
   is seen
   Total time spent: 35 minutes

2113-10-19 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2113-10-18**] 10:51 AM
   -hypoxia on last ABG, incrased FIO2 to 80%
   -pro BNP 70,000
   -lasix 40mg IV x1 with minimal increase in output
   -CE negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-16**] 12:06 PM
   Meropenem - [**2113-10-18**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-10-18**] 09:00 PM
   Furosemide (Lasix) - [**2113-10-19**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-19**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 88 (82 - 115) bpm
   BP: 126/73(86) {104/59(73) - 133/74(87)} mmHg
   RR: 25 (19 - 34) insp/min
   SpO2: 93%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 66.5 kg (admission): 63.9 kg
   Height: 61 Inch
             Total In:
                                                                    283 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                    233 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                    190 mL
   Urine:
                                                                    480 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 93%
   ABG: 7.48/26/51/22/-1
   PaO2 / FiO2: 64
   Physical Examination
   GEN: grimace to sternal rub only, no response to voice
   HEENT:NCAT MMM anicteric pink conjunctiva
   CV: RRR S1S2
   PULM: crackles at bases w/decreased breath sounds on L to mid-lung
   fields
   ABD: soft nondistended hypoactive bs no masses
   EXT: cool b/l feet 1+dp pulses, no cyanosis, no new rashes
   Labs / Radiology
   265 K/uL
   11.7 g/dL
   142 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   43 mg/dL
   106 mEq/L
   138 mEq/L
   36.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2113-10-12**]  04:40 PM
                             [**2113-10-13**]  02:18 AM
                             [**2113-10-14**]  06:26 AM
                             [**2113-10-15**]  04:45 AM
                             [**2113-10-16**]  06:09 AM
                             [**2113-10-17**]  04:30 AM
                             [**2113-10-18**]  11:57 AM
                             [**2113-10-18**]  06:22 PM
                             [**2113-10-18**]  10:40 PM
                             [**2113-10-19**]  03:47 AM
   WBC
   13.3
   11.3
   9.8
   8.7
   9.3
   9.4
   8.1
   Hct
   34.8
   35.4
   34.8
   36.6
   39.9
   36.9
   36.6
   Plt
   [**Telephone/Fax (2) 5428**]
   265
   Cr
   1.2
   1.0
   0.8
   0.8
   0.8
   0.9
   1.1
   1.2
   TropT
   0.02
   0.03
   0.03
   TCO2
   20
   Glucose
   241
   182
   86
   125
   84
   96
   159
   142
   Other labs: PT / PTT / INR:17.2/52.0/1.6, CK / CKMB /
   Troponin-T:16/2/0.03, ALT / AST:[**1-16**], Alk Phos / T Bili:62/0.7,
   Amylase / Lipase:[**9-7**], Differential-Neuts:84.9 %, Lymph:7.6 %, Mono:6.9
   %, Eos:0.5 %, Fibrinogen:202 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:266 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   # Respiratory failure:  Patient with HAP MRSA on admission,
   exacerbating significant systolic/diastolic CHF. Patient initially
   improved with diuresis however now not responding as well. Overnight
   she no longer had apneic periods but will desat with even minimal
   movement. FIO2 increased to 80% to maintain sats in low 90s. This is
   likely secondary to her LL collapse [**3-4**] mucus plugging, which could be
   relieved w/nasal suctioning, chest PT and bronchoscopy.
   CT chest shows
   Increased bilateral pleural effusions, now moderate on the right and
   large
   on the left.
   2. Almost complete collapse of the left lung with obstruction of left
   main
   stem bronchus and both lobar bronchi, probably due to secretions.
   Consider
   therapeutic bronchoscopy.
   3. Right lung ground-glass opacity, probably due to expiratory phase of
   respiration, although a component of hydrostatic edema is possible.
   4. Increased ascites and diffuse anasarca.
   5. Excessive tracheal collapsibility, suggesting tracheomalacia, but
   incompletely evaluated.
   6. Cardiomegaly. Atherosclerotic calcifications.
   7. Osteopenia.
   8. Unchanged 1-cm nodule adjacent to the spleen, nonspecific.
   -Continue Vanc/Meropenem to complete 10-day course- stop on both [**10-22**]
   -I/O goal negative 500cc today
   -suction PRN, MDI standing
   -therapeutic bronchoscopy would be beneficial. Also can consider nasal
   suctioning and PT chest therapy first to see if it will stimulate cough
   and relieve mucus plugging.
   #CHF: Low EF (~15%) on carvedilol and spironolactone. Lasix
   unresponsive at this point. Consider cardiology consult to assess if
   [**Last Name (un) 5192**] pharmacologic therapy could assist.
   -Continue ASA
   - Continue carvedilol, spironolactone
   - Lasix standing plus PRN at 60mg IV
   - monitor K
   # Diarrhea: Improved. Holding bowel regimen.
    #Decreased UOP: Patient with 1.1 L yesterday. She has a very sensitive
   balance due to CHF and pulmonary processes. She needs strict
   -continue lasix at 60mg IV standing plus PRN
   #DM: SSI
   #FEN: TF
    Access: PICC
    Ppx: heparin sc,
   -change to PO PPI
   -restart bowel regimen once diarrhea completely resolved
   Code: DNR, intubation ok
    Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-18**] 10:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-19 12:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 382**] yo women with h/o CAD, HTN, DM, hypothyroidism.  Admitted with
   respiratory failure on [**2113-10-4**].  Was extubed went to floor and returned
   yesterday with hypoxemia.  Was on shovel mask overnight, with FiO2 of
   0.4  ABG with pO2 of 51, FiO2 increased to 0.8.  proBNP=70K.  Did not
   respond well to lasix overnight.  Cardiac enzymes negative.
   24 Hour Events:
 PICC LINE - START [**2113-10-18**] 10:51 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-10-19**] 09:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-19**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-10-19**] 08:19 AM
   Other medications:
   aldactone
   SSI
   keppra
   asa
   levoxyl
   vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-19**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 89 (82 - 115) bpm
   BP: 110/58(71) {110/58(71) - 133/74(87)} mmHg
   RR: 28 (19 - 34) insp/min
   SpO2: 90%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 66.5 kg (admission): 63.9 kg
   Height: 61 Inch
             Total In:
                                                                    283 mL
                                                                    372 mL
   PO:
             TF:
             148 mL
   IVF:
                                                                    233 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                    215 mL
   Urine:
                                                                    480 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                    157 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 90%
   ABG: 7.48/26/51/22/-1
   PaO2 / FiO2: 64
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   265 K/uL
   142 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   43 mg/dL
   106 mEq/L
   138 mEq/L
   36.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2113-10-12**]  04:40 PM
                             [**2113-10-13**]  02:18 AM
                             [**2113-10-14**]  06:26 AM
                             [**2113-10-15**]  04:45 AM
                             [**2113-10-16**]  06:09 AM
                             [**2113-10-17**]  04:30 AM
                             [**2113-10-18**]  11:57 AM
                             [**2113-10-18**]  06:22 PM
                             [**2113-10-18**]  10:40 PM
                             [**2113-10-19**]  03:47 AM
   WBC
   13.3
   11.3
   9.8
   8.7
   9.3
   9.4
   8.1
   Hct
   34.8
   35.4
   34.8
   36.6
   39.9
   36.9
   36.6
   Plt
   [**Telephone/Fax (2) 5428**]
   265
   Cr
   1.2
   1.0
   0.8
   0.8
   0.8
   0.9
   1.1
   1.2
   TropT
   0.02
   0.03
   0.03
   TCO2
   20
   Glucose
   241
   182
   86
   125
   84
   96
   159
   142
   Other labs: PT / PTT / INR:17.2/52.0/1.6, CK / CKMB /
   Troponin-T:16/2/0.03, ALT / AST:[**1-16**], Alk Phos / T Bili:62/0.7,
   Amylase / Lipase:[**9-7**], Differential-Neuts:84.9 %, Lymph:7.6 %, Mono:6.9
   %, Eos:0.5 %, Fibrinogen:202 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:329 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Respiratory distress/hypoxemia:  Has collapsed left lung likely from
   mucous plug.  Will try conservative management - chest PT and nasal
   suctioning.
   pulmonary edema:  Lasix for diuresis
   CHF:  restart carvedilol and ASA.
   DM:
   F/E/N:
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2113-10-19**] 09:08 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-18**] 10:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-10-20 07:22:00 Physician Resident Progress Note
Chief Complaint: [**Age over 90 382**]  year old female with a history of CAD s/p MI, htn,
   dm, hypothyroidism and essentially no mental status who presents with
   respiratory distress. now s/p intubation and extubation x2 now on
   oxygen via nasal cannula.
   24 Hour Events:
   yesterday, plan was to bronch patient, however were able to get deep
   suction instead, so decided to hold off on bronch. Initially goal to
   diurese patient with goal of -1 L, however patient looked dry so held
   off on additional diuresis despite being positive. Patient with
   improved oxygentation s/p suctioning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-10-19**] 08:38 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-19**] 06:32 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-19**] 08:38 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2113-10-20**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 85 (80 - 99) bpm
   BP: 109/60(72) {97/56(67) - 129/82(94)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 66.5 kg (admission): 63.9 kg
   Height: 61 Inch
             Total In:
                                                                  1,399 mL
                                                                    647 mL
   PO:
             TF:
                                                                    669 mL
                                                                    325 mL
   IVF:
                                                                    440 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    560 mL
   Urine:
                                                                    780 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: adducted OD
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left side diminshed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Oriented (to): nothing,
   Movement: No spontaneous movement, Tone: Not assessed
   Labs / Radiology
   261 K/uL
   11.3 g/dL
   172 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   46 mg/dL
   109 mEq/L
   143 mEq/L
   35.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2113-10-13**]  02:18 AM
                             [**2113-10-14**]  06:26 AM
                             [**2113-10-15**]  04:45 AM
                             [**2113-10-16**]  06:09 AM
                             [**2113-10-17**]  04:30 AM
                             [**2113-10-18**]  11:57 AM
                             [**2113-10-18**]  06:22 PM
                             [**2113-10-18**]  10:40 PM
                             [**2113-10-19**]  03:47 AM
                             [**2113-10-20**]  04:01 AM
   WBC
   13.3
   11.3
   9.8
   8.7
   9.3
   9.4
   8.1
   9.0
   Hct
   34.8
   35.4
   34.8
   36.6
   39.9
   36.9
   36.6
   35.9
   Plt
   [**Telephone/Fax (2) 5468**]61
   Cr
   1.0
   0.8
   0.8
   0.8
   0.9
   1.1
   1.2
   1.0
   TropT
   0.02
   0.03
   0.03
   TCO2
   20
   Glucose
   182
   86
   125
   84
   96
   159
   142
   172
   Other labs: PT / PTT / INR:17.9/65.1/1.6, CK / CKMB /
   Troponin-T:16/2/0.03, ALT / AST:[**1-16**], Alk Phos / T Bili:62/0.7,
   Amylase / Lipase:[**9-7**], Differential-Neuts:84.9 %, Lymph:7.6 %, Mono:6.9
   %, Eos:0.5 %, Fibrinogen:202 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:329 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   # Respiratory failure:  Patient with HAP MRSA on admission,
   exacerbating significant systolic/diastolic CHF. Patient initially
   improved with diuresis and yesterday improved with deep suctioning as
   had evidence of lung collapse secondary to mucus plugging. oxygenation
   improved yesterday, now on NC only.  Decided to hold on therapeutic
   bronch and continue with aggressive chest pt and suctioning. CT chest
   shows Increased bilateral pleural effusions, now moderate on the right
   and large on the left, however suspect that a large component of this
   may be secondary to lung collapse from secretions. 2. Almost complete
   collapse of the left lung with obstruction of left main stem bronchus
   and both lobar bronchi, probably due to secretions.  3. Right lung
   ground-glass opacity, probably due to expiratory phase ofrespiration,
   although a component of hydrostatic edema is possible. 4. Increased
   ascites and diffuse anasarca. 5. Excessive tracheal collapsibility,
   suggesting tracheomalacia, but
    incompletely evaluated.
    6. Cardiomegaly. Atherosclerotic calcifications.
    7. Osteopenia.
    8. Unchanged 1-cm nodule adjacent to the spleen, nonspecific.
   -will d/c antibiotics at this time
   -I/O goal negative 1L today
   -suction PRN, will change MDI to nebs
   - cont nasal suctioning and PT chest therapy first to see if it will
   stimulate cough and relieve mucus plugging.
   #CHF: Low EF (~15%) on carvedilol and spironolactone. unclear response
   to lasix
    -Continue ASA
   - uptitrated carvedilol this morning, spironolactone
   - increased standing lasix dose to 60, also written for 80 IV once
   - monitor K
    # Diarrhea: Improved. Holding bowel regimen.
    #Decreased UOP: very sensitive balance due to CHF and pulmonary
   processes. She needs strict i/o
   -continue lasix at 60mg IV standing plus PRN
    #DM: SSI
   #FEN: tube feeds
   Access: PICC
   Ppx: heparin sc, -change to PO PPI
   -restart bowel regimen once diarrhea completely resolved
   Code: DNR, intubation ok
    Dispo: call out to floor
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2113-10-19**] 09:08 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2113-10-18**] 10:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-10-20 12:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Frequent suctioning with prominent secretions
   -Chest PT continuing
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-10-20**] 08:00 AM
   Vancomycin - [**2113-10-20**] 08:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-10-19**] 08:38 PM
   Furosemide (Lasix) - [**2113-10-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-20**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35
C (95
   HR: 88 (80 - 99) bpm
   BP: 111/70(81) {97/56(67) - 129/82(94)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 66.5 kg (admission): 63.9 kg
   Height: 61 Inch
             Total In:
                                                                  1,401 mL
                                                                  1,219 mL
   PO:
             TF:
                                                                    671 mL
                                                                    548 mL
   IVF:
                                                                    440 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                  1,320 mL
   Urine:
                                                                    780 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    621 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
Patient with asymmetric pupils but both cearly reactive.
   No purposeful response to voice.
   Labs / Radiology
   11.3 g/dL
   261 K/uL
   172 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   46 mg/dL
   109 mEq/L
   143 mEq/L
   35.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2113-10-13**]  02:18 AM
                             [**2113-10-14**]  06:26 AM
                             [**2113-10-15**]  04:45 AM
                             [**2113-10-16**]  06:09 AM
                             [**2113-10-17**]  04:30 AM
                             [**2113-10-18**]  11:57 AM
                             [**2113-10-18**]  06:22 PM
                             [**2113-10-18**]  10:40 PM
                             [**2113-10-19**]  03:47 AM
                             [**2113-10-20**]  04:01 AM
   WBC
   13.3
   11.3
   9.8
   8.7
   9.3
   9.4
   8.1
   9.0
   Hct
   34.8
   35.4
   34.8
   36.6
   39.9
   36.9
   36.6
   35.9
   Plt
   [**Telephone/Fax (2) 5468**]61
   Cr
   1.0
   0.8
   0.8
   0.8
   0.9
   1.1
   1.2
   1.0
   TropT
   0.02
   0.03
   0.03
   TCO2
   20
   Glucose
   182
   86
   125
   84
   96
   159
   142
   172
   Other labs: PT / PTT / INR:17.9/65.1/1.6, CK / CKMB /
   Troponin-T:16/2/0.03, ALT / AST:[**1-16**], Alk Phos / T Bili:62/0.7,
   Amylase / Lipase:[**9-7**], Differential-Neuts:84.9 %, Lymph:7.6 %, Mono:6.9
   %, Eos:0.5 %, Fibrinogen:202 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:329 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Imaging: Improved aeration bilaterally
   Assessment and Plan
   [**Age over 90 382**] yo female admit to ICU with acute, hypoxemic respiratory failure
   with source likely multifactorial with pleural effusion, aspiration and
   multilobar pneumonia and collapse continuing.  She has had good
   response to supportive care with chest PT and suctioning which is
   encouraging.  The open question has been as to what extent patient is
   volume overload and in need of diuresis.  At this time she has been
   able to be weaned down on supplemental oxygen to nasal cannula.
   1)Respiratory Failure Acute-
   -Lasix 40mg/d to keep mild negative fluid balance
   -Meropenem completed
   -Full chest PT and suctioning to maintain open airways and secreation
   clearance is essential.
   2)Congestive Heart Failure-
   -Carvedilol
   -Spironolactone
   -ASA
   -Up titration of treatment here will be necessary but not sufficient to
   keep respiratory status stable.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2113-10-20**] 07:17 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2113-10-18**] 10:51 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes